US04727073
A mixture of 5-(3-benzoylthioureidomethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (1.0 g) and sodium hydroxide (0.089 g) in methanol (20 ml) and water (10 ml) was stirred for 1 hour at a room temperature. After evaporating the solvent, water (20 ml) was added thereto and stirred for 30 minutes. The resulting precipitates were collected by filtration, washed with water and dried over phosphorous pentoxide to give 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-thioureidomethylpyrimidine (0.75 g).

reactant | 5-(3-benzoylthioureidomethyl)-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 1.0 g | C(C1=CC=CC=C1)(=O)NC(NCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])=S | C26H21N5O3S
reactant | sodium hydroxide | 0.089 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-thioureidomethylpyrimidine | 0.75 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CNC(=S)N | C19H17N5O2S
